US07514422B2
N-Crotyl,N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine
A solution of N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine (6.68 g, 17.9 mmol) in toluene (100 mL) was treated with K2CO3 (3.22 g, 23.3 mmol), KOH (3.01 g, 53.7 mmol), n-Bu4NBr (0.580 g, 1.80 mmol) and crotyl bromide (3.15 g, 23.3 mmol). The mixture was stirred at 75 C for 16 hours, cooled to 20 C, diluted with Et2O (500 mL), washed with 10% aqueous HCl (500 mL) and concentrated. Flash chromatography (10% EtOAc in hexane, silica) resulted in 5.22 g of a clear oil. MS calculated for C15H17F3INO2+H: 428, observed: 428.

reactant | N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine | 17.9 mmol, 6.68 g | FC(C(=O)NCCC1=C(C=CC(=C1)OC)I)(F)F | C11H11F3INO2
reactant | K2CO3 | 23.3 mmol, 3.22 g | C(=O)([O-])[O-].[K+].[K+]
reactant | KOH | 53.7 mmol, 3.01 g | [OH-].[K+]
reactant | crotyl bromide | 23.3 mmol, 3.15 g | C(C=CC)Br | C4H7Br
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | n-Bu4NBr | 1.80 mmol, 0.580 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | N-Crotyl,N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine | 5.22 g | C(C=CC)N(C(C(F)(F)F)=O)CCC1=C(C=CC(=C1)OC)I | C15H17F3INO2
